US07262185B2
To a solution of 2-mercapto-5-nitrobenzimidazole (3.0 g) and triethylamine (12.5 ml) in tetrahydrofuran (30 ml) was added dropwise a solution of 5-chloromethyl-1-propylimidazole hydrochloride (3.0 g) in methanol (30 ml) under nitrogen atmosphere at 0° C. After the mixture was allowed to be at room temperature and stirred for 10 minutes, water was added to the mixture and the mixture was extracted with ethyl acetate twice. The mixture was dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (methanol:ethyl acetate=1:8→methanol:ethyl acetate=1:4), which was recrystallized from diisopropyl ether-ethyl acetate, to give 5-nitro-2-(((1-propylimidazol-5-yl)methyl)sulfanyl)benzimidazole (3.33 g) as yellow crystals.

reactant | 2-mercapto-5-nitrobenzimidazole | 3.0 g | SC=1NC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H5N3O2S
reactant | triethylamine | 12.5 ml | C(C)N(CC)CC | C6H15N
reactant | 5-chloromethyl-1-propylimidazole hydrochloride | 3.0 g | Cl.ClCC1=CN=CN1CCC
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | methanol | 30 ml | CO | CH4O
product | 5-nitro-2-(((1-propylimidazol-5-yl)methyl)sulfanyl)benzimidazole | 3.33 g | [N+](=O)([O-])C1=CC2=C(N=C(N2)SCC2=CN=CN2CCC)C=C1 | C14H15N5O2S
